US09421532B2
A 20-mL eggplant flask equipped with a three-way cock and a magnetic stirrer was heat dried while pumping to a vacuum of 5 Pa before its interior was purged with argon atmosphere. Into the flask, iron complex A (1.0 mg, 0.002 mmol) was admitted as catalyst and dissolved in toluene (0.5 mL). To the solution, 1,2-bis(dimethylsilyl)benzene (475 μL) was added through a syringe, and N,N-dimethyl-4-bromobenzamide (228 mg, 1.0 mmol) was added. The solution was stirred at 100° C. for 30 minutes. Toluene was distilled off in vacuum. The crude product was purified by silica gel-packed column chromatography using hexane/ethyl acetate (20/1) as developing solvent, obtaining N,N-dimethyl-4-bromobenzylamine (184 mg, 0.86 mmol, 86%). The results are shown as Entry 2 in Table 5. The resulting amine was identified for geometry by 1H and 13C-NMR spectroscopy and IR spectroscopy.

reactant | 1,2-bis(dimethylsilyl)benzene | 475 μL | C[SiH](C1=C(C=CC=C1)[SiH](C)C)C | C10H18Si2
reactant | N,N-dimethyl-4-bromobenzamide | 1.0 mmol, 228 mg | CN(C(C1=CC=C(C=C1)Br)=O)C | C9H10BrNO
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-4-bromobenzylamine | 0.86 mmol, 184 mg, 86% | CN(C)CC1=CC=C(C=C1)Br | C9H12BrN
